US08058269B2
To a solution of cyclopropanemethylamine (142 mg, 2.0 mmol) in dichloromethane (20 mL) was added rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (0.37 g, 0.99 mmol). After the mixture was stirred at room temperature for 1 h, another portion of dichloromethane (20 mL) was added. The mixture was washed with water (20 mL×2). The organic layer was separated, dried over Na2SO4 and concentrated to give 0.34 g of rac-6-chloro-3-(3-chloro-benzyl)-3-(cyclopropylmethyl-amino)-1,3-dihydro-indol-2-one as a white solid. MS: [M+H]+=361

reactant | cyclopropanemethylamine | 2.0 mmol, 142 mg | C1(CC1)CN | C4H9N
reactant | rac-3-bromo-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 0.99 mmol, 0.37 g | BrC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C15H10BrCl2NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | rac-6-chloro-3-(3-chloro-benzyl)-3-(cyclopropylmethyl-amino)-1,3-dihydro-indol-2-one | 0.34 g | ClC1=CC=C2C(C(NC2=C1)=O)(NCC1CC1)CC1=CC(=CC=C1)Cl | C19H18Cl2N2O
